US07732448B2
0.09 g of sodium hydride (60% oil suspension) was suspended in 2 ml of tetrahydrofuran. 0.3 ml of tetrahydrofuran solution of 0.13 g of 2-butyn-1-ol was added dropwise at room temperature therein, and the mixture was stirred for 10 minutes. Into the mixture was added dropwise 0.3 ml of tetrahydrofuran solution of 0.4 g of 5-chloro-2,4-difluoro-6-(3,5-dimethylpiperidino) pyrimidine at 0° C., and stirred for 30 minutes at same temperature. The reaction mixture was poured into a saturated ammonium chloride aqueous solution, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.20 g of 5-chloro-4-(2-butynyloxy)-2-fluoro-6-(3,5-dimethyl piperidino)pyrimidine (hereinafter, referred to as Compound (52)). Compound (52) had the cis/trans diastereomer originated two methyls on the pyperidine ring. The ratio of the cis/trans diastereomer was about 5/1.

reactant | sodium hydride | 0.09 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.13 g | C(C#CC)O | C4H6O
reactant | 5-chloro-2,4-difluoro-6-(3,5-dimethylpiperidino) pyrimidine | 0.4 g | ClC=1C(=NC(=NC1N1CC(CC(C1)C)C)F)F | C11H14ClF2N3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 ml | O1CCCC1 | C4H8O
product | 5-chloro-4-(2-butynyloxy)-2-fluoro-6-(3,5-dimethyl piperidino)pyrimidine | 0.20 g | ClC=1C(=NC(=NC1N1CC(CC(C1)C)C)F)OCC#CC | C15H19ClFN3O
